US04293702
A mixture (5 g, 0.023 mole) of 2-bromo-4-chlorobenzothiazole and 2,4-dichlorobenzothiazole and 1,5-diazabicyclo[5.4.0]undecene-5 (DBU) (3.8 g, 0.025 mole) were added to methanol (80 c.c.), and the mixture was heated under reflux for 4 hours. After cooling, water (150 c.c.) was added to the reaction solution, followed by ice-cooling. The deposited crystals were filtered and washed twice with water to obtain 4.23 g of 2-methoxy-4-chlorobenzothiazole. Yield 92.5%, purity 98.5%, m.p. 55°-57° C.

reactant | 2-bromo-4-chlorobenzothiazole | 0.023 mole, 5 g | BrC=1SC2=C(N1)C(=CC=C2)Cl | C7H3BrClNS
reactant | 2,4-dichlorobenzothiazole | ClC=1SC2=C(N1)C(=CC=C2)Cl | C7H3Cl2NS
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-methoxy-4-chlorobenzothiazole | 4.23 g, Yield 92.5% | COC=1SC2=C(N1)C(=CC=C2)Cl | C8H6ClNOS
